US07495007B2
In a manner similar to the method described in example 4b, E/Z-6-chloro-3-cyclopentylmethylene-1,3-dihydro-indol-2-one (0.8 g, 3.2 mmol) was reacted with ethyl chloroformate (0.46 mL, 4.9 mmol) and triethylamine (0.9 mL, 6.4 mmol) in dichloromethane to give E/Z-6-chloro-3-cyclopentylmethylene-2-oxo-2,3-dihydro-indole-1-carboxylic acid ethyl ester as brown oil (Yield 0.6 g, 58%).

reactant | Z-6-chloro-3-cyclopentylmethylene-1,3-dihydro-indol-2-one | 3.2 mmol, 0.8 g | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1CCCC1 | C14H14ClNO
reactant | ethyl chloroformate | 4.9 mmol, 0.46 mL | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 6.4 mmol, 0.9 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | Z-6-chloro-3-cyclopentylmethylene-2-oxo-2,3-dihydro-indole-1-carboxylic acid ethyl ester | Yield 0.6 g, 58% | C(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1CCCC1)=O | C17H18ClNO3
